US07585885B2
N-Methyl-N-propyl-5-vinyl-isophthalamic acid methyl ester
Dissolve 5-bromo-N-methyl-N-propyl-isophthalamic acid methyl ester (2.7 g, 8.6 mmol) in toluene (16 mL) and place the solution under nitrogen. Add in sequence 2,6-di-tert-butyl-4-methylphenol (a few crystals), tetrakis(triphenylphosphine)palladium (0) (185 mg, 0.16 mmol), and tributylvinyl tin (3 g, 9.5 mmol) and reflux for 4 h. Filter though a filtering agent and concentrate. Add diethyl ether (70 mL) and 20% aqueous potassium fluoride (70 mL) and stir vigorously. Collect the diethyl ether layer and extract with diethyl ether two additional times. Concentrate and purify (silica gel chromatography, eluting with 0:100 to 50:50 ethyl acetate:hexanes) to give the title compound (1.58 g, 70%).

reactant | 5-bromo-N-methyl-N-propyl-isophthalamic acid methyl ester | 8.6 mmol, 2.7 g | COC(C1=CC(C(=O)N(CCC)C)=CC(=C1)Br)=O | C13H16BrNO3
reactant | 2,6-di-tert-butyl-4-methylphenol | C(C)(C)(C)C1=C(C(=CC(=C1)C)C(C)(C)C)O | C15H24O
reactant | tributylvinyl tin | 9.5 mmol, 3 g | C(CCC)C(=C(CCCC)CCCC)[Sn]
solvent | toluene | 16 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium | 0.16 mmol, 185 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-Methyl-N-propyl-5-vinyl-isophthalamic acid methyl ester | 1.58 g, 70% | COC(C1=CC(C(=O)N(CCC)C)=CC(=C1)C=C)=O | C15H19NO3
